US06498156B2
d) 4-[1-(4-Fluorophenyl)-3-(3-hydroxy-3-phenylpropyl)-4-oxo-azetidin-2-yl]benzonitrile (5)
2.7 g of 4-[1-(4-fluorophenylamino)-2-(2-oxo-4-phenyloxazolidine-3-carbonyl)-5-phenyl-5-trimethylsilanyloxypentyl]benzonitrile in 30 ml of tert-butyl methyl ether, 1.6 ml of bistrimethylsilylacetamide and 0.2 g of tetrabutylammonium fluoride trihydrate are heated at reflux for 3 hours. The mixture is allowed to stand overnight, 0.2 ml of glacial acetic acid are added, and the mixture is stirred for 15 min and then substantially concentrated. 15 ml of a mixture of isopropanol/2N sulfuric acid=10:1 are added, and the mixture is stirred at room temperature for 1 hour. The mixture is then treated with a little solid sodium bicarbonate and again substantially concentrated and the residue is taken up in ethyl acetate and washed with water. The residue of the dried organic phase is purified by column filtration (SiO2, ethyl acetate/n-heptane=1:1). This gives the product of molecular weight 400.5 (C25H21FN2O2); MS (DCl+): 401 (M+H+), 383 (M+H+−H2O).

reactant | 4-[1-(4-fluorophenylamino)-2-(2-oxo-4-phenyloxazolidine-3-carbonyl)-5-phenyl-5-trimethylsilanyloxypentyl]benzonitrile | 2.7 g | FC1=CC=C(C=C1)NC(C(CCC(O[Si](C)(C)C)C1=CC=CC=C1)C(=O)N1C(OCC1C1=CC=CC=C1)=O)C1=CC=C(C#N)C=C1 | C37H38FN3O4Si
reactant | tetrabutylammonium fluoride trihydrate | 0.2 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
solvent | tert-butyl methyl ether | 30 ml | COC(C)(C)C | C5H12O
solvent | bistrimethylsilylacetamide | 1.6 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
product | 4-[1-(4-Fluorophenyl)-3-(3-hydroxy-3-phenylpropyl)-4-oxo-azetidin-2-yl]benzonitrile | FC1=CC=C(C=C1)N1C(C(C1=O)CCC(C1=CC=CC=C1)O)C1=CC=C(C#N)C=C1 | C25H21FN2O2
